US05194602
Ethyl (20Z)-20-formamido-9α-hydroxy-3-methoxypregna-3,5,17(20)-trien-21-oate
Potassium tert. butoxide (1.71 g) was added to dry tetrahydrofuran (60 ml) under nitrogen. The solution was cooled to 0° C. and a solution of ethyl isocyanoacetate (1.64 g) in tetrahydrofuran (10 ml) was added dropwise, while keeping the temperature below 0° C. Next, a solution of 9α-hydroxy-3-methoxyandrosta-3,5-dien-17-one (3.21 g) in tetrahydrofuran (60 ml) was added. After stirring for 5 hours at room temperature the mixture was poured into 400 ml of saturated aqueous ammonium chloride solution and extracted twice with ethyl acetate. The combined organic layers were washed three times with water, dried (MgSO4) and concentrated under reduced pressure. The crude product (3.20 g) was purified by chromatography (silica gel, toluene/acetone 4/1 containing 0.1% triethylamine) to provide 0.99 g of the title compound. NMR spectra showed the formation of the Z-isomer of the title compound as a mixture of the two rotamer forms of the 20-formamido group.

reactant | Potassium tert. butoxide | 1.71 g | CC(C)([O-])C.[K+]
reactant | ethyl isocyanoacetate | 1.64 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 9α-hydroxy-3-methoxyandrosta-3,5-dien-17-one | 3.21 g | O[C@@]12[C@]3(CCC(=CC3=CC[C@H]1[C@@H]1CCC([C@@]1(C)CC2)=O)OC)C | C20H28O3
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Ethyl (20Z)-20-formamido-9α-hydroxy-3-methoxypregna-3,5,17(20)-trien-21-oate | 0.99 g | C(=O)N\C(\C(=O)OCC)=C/1\CC[C@H]2[C@@H]3CC=C4C=C(CC[C@]4(C)[C@]3(CC[C@]12C)O)OC | C25H35NO5
